***********************************************************************
**  v1.7.5 PSpice Models Library - TI NexFET Power N/P Channel FET's
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
* Notice:
* The data and models provided herein are intended to be used by 
* customers as an aid in designing electrical circuits using 
* semiconductor devices manufactured &/or sold by Texas Instruments.
* The models and associated information contained herein are not to
* be construed as a guarantee of electrical performance and/or device 
* specification.  Therefore, Texas Instruments does not assume any 
* liability arising out of the use of said data or models, nor from
* the devices or products manufactured therefrom.  Texas Instruments
* does not convey any license under its patent rights nor the rights
* of others.  Texas Instruments reserves the right to change models 
* without prior notice.  
*
* TI is a registered trademark of Texas Instruments Inc.
*************************************************************************
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD18502Q5B
* Date: 12/04/2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Datasheet: SLPS320 - November 2012
*
*****************************************************************************
 *$
**********************************************************************
**********************************************************************
*                                                                    *
* CSD18502Q5B  -  PSpice Model for use with OrCAD                   *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	1.792E-09	)
+	(	0.5	1.7865E-09	)
+	(	1	1.7735E-09	)
+	(	1.5	1.7622E-09	)
+	(	2	1.751E-09	)
+	(	2.5	1.7428E-09	)
+	(	3	1.7356E-09	)
+	(	3.5	1.73E-09	)
+	(	4	1.7256E-09	)
+	(	4.5	1.7209E-09	)
+	(	5	1.7177E-09	)
+	(	5.5	1.7152E-09	)
+	(	6	1.7122E-09	)
+	(	6.5	1.71E-09	)
+	(	7	1.7089E-09	)
+	(	7.5	1.7101E-09	)
+	(	8	1.7116E-09	)
+	(	8.5	1.7124E-09	)
+	(	9	1.712E-09	)
+	(	9.5	1.7128E-09	)
+	(	10	1.7148E-09	)
+	(	10.5	1.7186E-09	)
+	(	11	1.7483E-09	)
+	(	11.5	1.79083E-09	)
+	(	12	1.78828E-09	)
+	(	12.5	1.78653E-09	)
+	(	13	1.78554E-09	)
+	(	13.5	1.78442E-09	)
+	(	14	1.78417E-09	)
+	(	14.5	1.78284E-09	)
+	(	15	1.78145E-09	)
+	(	15.5	1.781E-09	)
+	(	16	1.77951E-09	)
+	(	16.5	1.77799E-09	)
+	(	17	1.77743E-09	)
+	(	17.5	1.77584E-09	)
+	(	18	1.77522E-09	)
+	(	18.5	1.77358E-09	)
+	(	19	1.77291E-09	)
+	(	19.5	1.77122E-09	)
+	(	20	1.77052E-09	)
+	(	20.5	1.76879E-09	)
+	(	21	1.76804E-09	)
+	(	21.5	1.76628E-09	)
+	(	22	1.76552E-09	)
+	(	22.5	1.76373E-09	)
+	(	23	1.76292E-09	)
+	(	23.5	1.76109E-09	)
+	(	24	1.75927E-09	)
+	(	24.5	1.75843E-09	)
+	(	25	1.75657E-09	)
+	(	25.5	1.7557E-09	)
+	(	26	1.75382E-09	)
+	(	26.5	1.75293E-09	)
+	(	27	1.75102E-09	)
+	(	27.5	1.74911E-09	)
+	(	28	1.74819E-09	)
+	(	28.5	1.74625E-09	)
+	(	29	1.7453E-09	)
+	(	29.5	1.74334E-09	)
+	(	30	1.74137E-09	)
+	(	30.5	1.74039E-09	)
+	(	31	1.73841E-09	)
+	(	31.5	1.73641E-09	)
+	(	32	1.7354E-09	)
+	(	32.5	1.73337E-09	)
+	(	33	1.73134E-09	)
+	(	33.5	1.73029E-09	)
+	(	34	1.72822E-09	)
+	(	34.5	1.72614E-09	)
+	(	35	1.72504E-09	)
+	(	35.5	1.72293E-09	)
+	(	36	1.72179E-09	)
+	(	36.5	1.71964E-09	)
+	(	37	1.71747E-09	)
+	(	37.5	1.7163E-09	)
+	(	38	1.71411E-09	)
+	(	38.5	1.71191E-09	)
+	(	39	1.7097E-09	)
+	(	39.5	1.70848E-09	)
+	(	40	1.70626E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)*sgn(v(3,4))}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	4.02E-10	)
+	(	0.5	3.615E-10	)
+	(	1	3.345E-10	)
+	(	1.5	3.208E-10	)
+	(	2	3.11E-10	)
+	(	2.5	3.012E-10	)
+	(	3	2.914E-10	)
+	(	3.5	2.82E-10	)
+	(	4	2.724E-10	)
+	(	4.5	2.631E-10	)
+	(	5	2.543E-10	)
+	(	5.5	2.458E-10	)
+	(	6	2.378E-10	)
+	(	6.5	2.3E-10	)
+	(	7	2.211E-10	)
+	(	7.5	2.099E-10	)
+	(	8	1.984E-10	)
+	(	8.5	1.876E-10	)
+	(	9	1.77E-10	)
+	(	9.5	1.662E-10	)
+	(	10	1.542E-10	)
+	(	10.5	1.414E-10	)
+	(	11	8.07E-11	)
+	(	11.5	3.117E-11	)
+	(	12	3.072E-11	)
+	(	12.5	2.947E-11	)
+	(	13	2.846E-11	)
+	(	13.5	2.758E-11	)
+	(	14	2.683E-11	)
+	(	14.5	2.616E-11	)
+	(	15	2.555E-11	)
+	(	15.5	2.5E-11	)
+	(	16	2.449E-11	)
+	(	16.5	2.401E-11	)
+	(	17	2.357E-11	)
+	(	17.5	2.316E-11	)
+	(	18	2.278E-11	)
+	(	18.5	2.242E-11	)
+	(	19	2.209E-11	)
+	(	19.5	2.178E-11	)
+	(	20	2.148E-11	)
+	(	20.5	2.121E-11	)
+	(	21	2.096E-11	)
+	(	21.5	2.072E-11	)
+	(	22	2.048E-11	)
+	(	22.5	2.027E-11	)
+	(	23	2.008E-11	)
+	(	23.5	1.991E-11	)
+	(	24	1.973E-11	)
+	(	24.5	1.957E-11	)
+	(	25	1.943E-11	)
+	(	25.5	1.93E-11	)
+	(	26	1.918E-11	)
+	(	26.5	1.907E-11	)
+	(	27	1.898E-11	)
+	(	27.5	1.889E-11	)
+	(	28	1.881E-11	)
+	(	28.5	1.875E-11	)
+	(	29	1.87E-11	)
+	(	29.5	1.866E-11	)
+	(	30	1.863E-11	)
+	(	30.5	1.861E-11	)
+	(	31	1.859E-11	)
+	(	31.5	1.859E-11	)
+	(	32	1.86E-11	)
+	(	32.5	1.863E-11	)
+	(	33	1.866E-11	)
+	(	33.5	1.871E-11	)
+	(	34	1.878E-11	)
+	(	34.5	1.886E-11	)
+	(	35	1.896E-11	)
+	(	35.5	1.907E-11	)
+	(	36	1.921E-11	)
+	(	36.5	1.936E-11	)
+	(	37	1.953E-11	)
+	(	37.5	1.97E-11	)
+	(	38	1.989E-11	)
+	(	38.5	2.009E-11	)
+	(	39	2.03E-11	)
+	(	39.5	2.052E-11	)
+	(	40	2.074E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)*sgn(v(3,4))}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	6.177E-09	)
+	(	0.5	5.5725E-09	)
+	(	1	4.9185E-09	)
+	(	1.5	4.4842E-09	)
+	(	2	4.164E-09	)
+	(	2.5	3.9108E-09	)
+	(	3	3.6996E-09	)
+	(	3.5	3.517E-09	)
+	(	4	3.3616E-09	)
+	(	4.5	3.2279E-09	)
+	(	5	3.1017E-09	)
+	(	5.5	2.9892E-09	)
+	(	6	2.8852E-09	)
+	(	6.5	2.785E-09	)
+	(	7	2.6859E-09	)
+	(	7.5	2.5841E-09	)
+	(	8	2.4766E-09	)
+	(	8.5	2.3824E-09	)
+	(	9	2.3E-09	)
+	(	9.5	2.2228E-09	)
+	(	10	2.1508E-09	)
+	(	10.5	2.0736E-09	)
+	(	11	2.0353E-09	)
+	(	11.5	1.94383E-09	)
+	(	12	1.31428E-09	)
+	(	12.5	1.25353E-09	)
+	(	13	1.21154E-09	)
+	(	13.5	1.17442E-09	)
+	(	14	1.14017E-09	)
+	(	14.5	1.10984E-09	)
+	(	15	1.08145E-09	)
+	(	15.5	1.055E-09	)
+	(	16	1.03051E-09	)
+	(	16.5	1.00799E-09	)
+	(	17	9.8643E-10	)
+	(	17.5	9.6614E-10	)
+	(	18	9.4702E-10	)
+	(	18.5	9.2888E-10	)
+	(	19	9.1181E-10	)
+	(	19.5	8.9562E-10	)
+	(	20	8.8012E-10	)
+	(	20.5	8.6549E-10	)
+	(	21	8.5144E-10	)
+	(	21.5	8.3818E-10	)
+	(	22	8.2552E-10	)
+	(	22.5	8.1343E-10	)
+	(	23	8.0192E-10	)
+	(	23.5	7.9099E-10	)
+	(	24	7.8057E-10	)
+	(	24.5	7.7063E-10	)
+	(	25	7.6097E-10	)
+	(	25.5	7.519E-10	)
+	(	26	7.4332E-10	)
+	(	26.5	7.3513E-10	)
+	(	27	7.2742E-10	)
+	(	27.5	7.2001E-10	)
+	(	28	7.1309E-10	)
+	(	28.5	7.0645E-10	)
+	(	29	7.001E-10	)
+	(	29.5	6.9424E-10	)
+	(	30	6.8857E-10	)
+	(	30.5	6.8339E-10	)
+	(	31	6.7841E-10	)
+	(	31.5	6.7381E-10	)
+	(	32	6.695E-10	)
+	(	32.5	6.6537E-10	)
+	(	33	6.6164E-10	)
+	(	33.5	6.5819E-10	)
+	(	34	6.5502E-10	)
+	(	34.5	6.5214E-10	)
+	(	35	6.4954E-10	)
+	(	35.5	6.4713E-10	)
+	(	36	6.4509E-10	)
+	(	36.5	6.4314E-10	)
+	(	37	6.4157E-10	)
+	(	37.5	6.402E-10	)
+	(	38	6.3911E-10	)
+	(	38.5	6.3821E-10	)
+	(	39	6.376E-10	)
+	(	39.5	6.3718E-10	)
+	(	40	6.3696E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)*sgn(v(3,4))}
.ends cds
.SUBCKT CSD18502Q5B  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    8.50e-3  
 .PARAM  ptrc2    2.75e-5
 .PARAM  pwidthP  7.094733333
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.11u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	5	10	1	3	cgd
*xcgs	5	8	1	3	cgs
cgs	5	8	2.40E-09
xcds	8	10	1	3	cds
DBD	3	1	DBD
LGG   2  5	 2.1e-9
RGG   5 11	 1.20
RSB  12  9	 RTEMP 0.23166e-3
R   9  8 	 RTEMP 0.23166e-3
RSP   8  6 	 0.50e-3
L   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP 0.62e-3
RDP   4  7	 0.5e-4
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 670
+ UA     = 0.5e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.48        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.8
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.30e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18		gamma	=	10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=41
+ IS=8.0e-12 N=1.045 RS=0.45e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
.MODEL DDx D (CJO=0.085e-09 VJ=0.50 M=0.45 IS=1e-12 RS=1.0 TNOM=27)
*******************************************************************
.ENDS CSD18502Q5B
*$